US05922727
1-[(Cyclopent-3-en-1-yl)methyl]-5-isopropyl-6-(3,5-dimethylphenylthio) -2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione and (cyclopent-3-en-1-yl)methyl toluenesulfonate were reacted by the same way with example 1 to obtain the titled compound.

reactant | 5-Isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | (cyclopent-3-en-1-yl)methyl toluenesulfonate | C=1(C(=CC=CC1)S(=O)(=O)OCC1CC=CC1)C | C13H16O3S
product | 1-[(Cyclopent-3-en-1-yl)methyl]-5-isopropyl-6-(3,5-dimethylphenylthio) -2,4-pyrimidinedione | Yield(%): 62.8 | C1(CC=CC1)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C21H26N2O2S
